US05274003
Preparation of (+)-1,2,3,4-tetrahydro-5-methoxy-N-[-2[(2,5-dimethyl) phenoxy]ethyl]-N-propyl-2-naphthalenamine
In Example 29, phenoxyacetic acid was replaced by 2,5-dimethylphenoxyacetic acid and (-)-2-(N-n-propylamino)-5-methoxytetralin was replaced by (+)-2-(N-n-propylamino)-5-methoxytetralin. The crude mixture was subjected to flash chromatography (Silica: 9:1 pet ether/EtOAc) and the product showed characteristic peaks at: NMR (300 MHz, CDCl3) δ 7.1-6.6(m, 6H), 4.0(t, 2H), 3.8(s, 3H), 2.3(s, 3H), 2.15(s, 3H), 0.9(t,3H).

reactant | phenoxyacetic acid | O(C1=CC=CC=C1)CC(=O)O | C8H8O3
reactant | 2,5-dimethylphenoxyacetic acid | CC1=C(OCC(=O)O)C=C(C=C1)C | C10H12O3
reactant | (-)-2-(N-n-propylamino)-5-methoxytetralin | C(CC)NC1CC2=CC=CC(=C2CC1)OC | C14H21NO
product | (+)-1,2,3,4-tetrahydro-5-methoxy-N-[-2[(2,5-dimethyl) phenoxy]ethyl]-N-propyl-2-naphthalenamine | COC1=C2CCC(CC2=CC=C1)N(CCC)CCOC1=C(C=CC(=C1)C)C | C24H33NO2
